US09034900B2
Step 2: 6-methyl-4-[5-(methylsulfonylmethyl)-2-(2,2,2-trifluoroethoxy)phenyl]furo[2,3-c]pyridin-7-one
A mixture of 2-bromo-4-(methylsulfonylmethyl)-1-(2,2,2-trifluoroethoxy)benzene (100 mg, 0.29 mmol), 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)furo[2,3-c]pyridin-7-one (96 mg, 0.35 mmol), K3PO4 (184 mg, 0.87 mmol), Pd(dppf)Cl2 (22 mg, 10%) in dioxane/H2O (2 mL/1 mL) was bubbled with nitrogen for 5 min. The sealed vial was heated to 70° C. for 2 h. The reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc (15 mL). The filtrate was washed with water and brine; the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was purified by prep-HPLC to afford the title compound (40 mg, 33%) as an off-white solid. 1H NMR (CDCl3, 400 MHz) δ 7.76 (d, J=2.0 Hz, 1H) 7.53 (d, J=2.0 Hz, 1H) 7.41-7.38 (m, 1H) 7.37 (s, 1H) 7.02 (d, J=8.4, 1H) 6.72 (d, J=2.0 Hz, 2H) 4.37 (q, J=8.0 Hz, 2H) 4.27 (s, 2H) 3.73 (s, 3H) 2.89 (s, 3H). LCMS (M+H)+=416.

reactant | 2-bromo-4-(methylsulfonylmethyl)-1-(2,2,2-trifluoroethoxy)benzene | 0.29 mmol, 100 mg | BrC1=C(C=CC(=C1)CS(=O)(=O)C)OCC(F)(F)F | C10H10BrF3O3S
reactant | 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)furo[2,3-c]pyridin-7-one | 0.35 mmol, 96 mg | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CO2)=O | C14H18BNO4
reactant | K3PO4 | 0.87 mmol, 184 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane H2O | 2 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 22 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-methyl-4-[5-(methylsulfonylmethyl)-2-(2,2,2-trifluoroethoxy)phenyl]furo[2,3-c]pyridin-7-one | 40 mg, 33% | CN1C(C2=C(C(=C1)C1=C(C=CC(=C1)CS(=O)(=O)C)OCC(F)(F)F)C=CO2)=O | C18H16F3NO5S
